US04600714
Sulfur trioxide pyridine complex
Chlorosulfonic acid (3.0 ml, 0.0454 mol, 150 M %) was added slowly to a solution of dry pyridine (9.84 ml, 0.121 mol) in dry dimethylformamide (60 ml) which had been cooled to -10°. The resulting clear solution was stirred for 10 minutes at room temperature.

reactant | Chlorosulfonic acid | 0.0454 mol, 150 M, 3.0 ml | ClS(=O)(=O)O | ClHO3S
reactant | pyridine | 0.121 mol, 9.84 ml | N1=CC=CC=C1 | C5H5N
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | Sulfur trioxide pyridine | N1=CC=CC=C1.S(=O)(=O)=O | InChI=1S/C5H5N.O3S/c1-2-4-6-5-3-1;1-4(2)3/h1-5H;
